US07119205B2
3-(3,5-dimethylphenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To a suspension of either NaH (60% suspension in mineral oil, pre washed with hexanes, 0.25 g, 6.2 mmol) held at room temperature or Lithium diisopropylamide (LDA, 2M solution in THF, 11.3 mmol, 5.6 mL) held at −78° C. in THF (30 mL) was added a solution of 2-(2-cyano-acetylamino)-4-(3,5-dimethyl-phenyl)-thiophene-3-carboxylic acid ethyl ester (0.968 g, 2.83 mmol) in THF (15 mL) dropwise via syringe over 10 minutes. The mixture was stirred at room temperature for 5 hours (or in the case of LDA, allowed to warm to room temperature over 16 hours), cooled to 0° C. and then quenched by dropwise addition of MeOH (5 mL) followed by 1N HCl to adjust the pH <3. The resultant slurry was filtered and the solid was washed with water (4×4 mL), ether (3×4 mL) and (Na2SO4), filtered and concentrated under reduced pressure to provide the target compound. The filtrate was concentrated and purified on a RP-HPLC system to provide additional compound. MS (ESI) m/e 295 (M−H)+; 1H NMR (300 MHz, MeOH-d4): δ ppm 12.53 (br s, 1H), 7.04 (s, 2H), 6.99 (s, 1H), 6.90 (s, 1H), 2.32 (s, 6H).

reactant | NaH | 6.2 mmol, 0.25 g | [H-].[Na+]
reactant | Lithium diisopropylamide | 11.3 mmol, 2M, 5.6 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-(2-cyano-acetylamino)-4-(3,5-dimethyl-phenyl)-thiophene-3-carboxylic acid ethyl ester | 2.83 mmol, 0.968 g | C(C)OC(=O)C1=C(SC=C1C1=CC(=CC(=C1)C)C)NC(CC#N)=O | C18H18N2O3S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(3,5-dimethylphenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | CC=1C=C(C=C(C1)C)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C16H12N2O2S
